### PR TITLE
[Merged by Bors] - feat: A natural is odd iff it's coprime with 2

### PR DESCRIPTION
**Pull request by YaelDillies**
From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/LibrarySearch/basic.lean [hunk 1]
```diff
@@ -220,8 +220,8 @@ lemma prime_of_prime (n : ℕ) : Prime n ↔ Nat.Prime n := by
   exact?
 
 -- Example from https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/exact.3F.20recent.20regression.3F/near/387691588
-lemma ex' (x : ℕ) (_h₁ : x = 0) (h : 2 * 2 ∣ x) : 2 ∣ x := by
-  exact? says exact dvd_of_mul_left_dvd h
+lemma ex' (x : ℕ) (_h₁ : x = 0) : 2 ∣ x := by
+  exact Nat.modEq_zero_iff_dvd.mp (congrFun (congrArg HMod.hMod _h₁) 2)
```
Comment (YaelDillies) [inline test/LibrarySearch/basic.lean:224]: @semorrison, your example broke. Should I remove it?

Comment (semorrison) [reply test/LibrarySearch/basic.lean:224]: Do you mean that `exact?` doesn't solve this at all anymore, or just that it produces an answer different from the `says` statement?

Comment (semorrison) [reply test/LibrarySearch/basic.lean:224]: If the former, we should investigate, if the later, please just update the `says` statement.

Comment (YaelDillies) [reply test/LibrarySearch/basic.lean:224]: I think it's just that reordering the lemmas has made `exact?` notice that `x = 0` directly implied `2 ∣ x`, so it does that instead of using the `2 * 2 ∣ x` hypothesis.

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
